US05457239
In a separate reaction vessel, the chloral 2-ethylhexyl hemiacetal was prepared from 1.05 g 2-ethyl-1-hexanol and 1.19 g (0.00807 mole) chloral substantially as described in Example 3. This material was dispersed in 1 ml of iso-octane and was added dropwise over twenty minutes to the 3,5-dimethylanisole/iso-octane/TiCl4 mixture. A sticky material precipitated, but the reaction solution was stirred at -15° C. for 4.5 hours before being with quenched with water, treated with NaOH, and worked-up substantially as described in Example 1.

reactant | 2-ethyl-1-hexanol | 1.05 g | C(C)C(CO)CCCC | C8H18O
reactant | chloral | 0.00807 mole, 1.19 g | O=CC(Cl)(Cl)Cl | C2HCl3O
solvent | iso-octane | 1 ml | C(C)(C)CC(C)(C)C | C8H18
catalyst | 3,5-dimethylanisole iso-octane TiCl4 | CC=1C=C(C=C(C1)C)OC.C(C)(C)CC(C)(C)C.Cl[Ti](Cl)(Cl)Cl
product | chloral 2-ethylhexyl hemiacetal | C(C)C(COC(C(Cl)(Cl)Cl)O)CCCC | C10H19Cl3O2
